US09120884B2
In a 500 mL round flask, 9,9-dihexyl-2-methyl-1,2,3,9-tetrahydrocyclopenta[b]fluoren-1-ol (80 g, 197.7 mmol) and p-toluene sulfonic acid (0.2 g) were dissolved in 320 mL of toluene, and then water was completely removed under reflux with Dean-Stark. The resultant material was cooled to room temperature, and then an aqueous ammonium chloride solution (150 mL) and 200 mL of diethyl ether were injected thereto, followed by separation of the organic layer. The organic layer collected by extracting the residue with diethyl ether was dried over magnesium sulfate, followed by removal of volatile materials, and then purified by using silica gel column chromatography tube, to thereby obtain 74.0 g of 9,9-dihexyl-2-methyl-3,9-dihydrocyclopenta[b]fluorene (yield: 96.8%).

reactant | 9,9-dihexyl-2-methyl-1,2,3,9-tetrahydrocyclopenta[b]fluoren-1-ol | 197.7 mmol, 80 g | C(CCCCC)C1(C2=CC=CC=C2C=2C=C3C(=CC12)C(C(C3)C)O)CCCCCC | C29H40O
reactant | p-toluene sulfonic acid | 0.2 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 320 mL | C1(=CC=CC=C1)C | C7H8
product | 9,9-dihexyl-2-methyl-3,9-dihydrocyclopenta[b]fluorene | 74.0 g, yield: 96.8% | C(CCCCC)C1(C2=CC=CC=C2C=2C=C3C(=CC12)C=C(C3)C)CCCCCC | C29H38
